US09193741B2
Synthesis of diethyl 2-(4-fluorobenzamido)malonate
To a solution of diethyl aminomalonate hydrochloride (5.0 g, 23.6 mmol) in pyridine (7.64 ml, 94.5 mmol) and dimethylformamide (60 ml) was added p-fluorobenzoyl chloride (4.19 ml, 35.4 mmol). The reaction mixture was stirred at room temperature for 15 hours. After removing the solvents, the residue was redissolved in dichloromethane, washed with water, brine and dried over Na2SO4. After removing the solvents, the crude residue was purified by flash chromatography on silica (CH2Cl2/MeOH 30:1) to yield the title compound as a white solid (4.9 g, 70%).

reactant | diethyl aminomalonate hydrochloride | 23.6 mmol, 5.0 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | pyridine | 94.5 mmol, 7.64 ml | N1=CC=CC=C1 | C5H5N
reactant | p-fluorobenzoyl chloride | 35.4 mmol, 4.19 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | diethyl 2-(4-fluorobenzamido)malonate | 4.9 g, 70% | FC1=CC=C(C(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C14H16FNO5
